US08629157B2
Step 2: Synthesis of (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid
(S)-1-(3-Chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (760 mg, 2.1 mmol) is treated with pre-cooled trifluoroacetic acid (5 mL). The clear solution is kept at room temperature for 1 h. Trifluoroacetic acid is evaporated in vacuo and the concentrate is treated with ice/water. Precipitated white solid is filtered, washed with water to give the title compound, ESI m/z 309 [M+H]+.

reactant | (S)-1-(3-Chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 2.1 mmol, 760 mg | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C1=NC=C(C=C1Cl)C(F)(F)F | C15H16ClF3N2O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid | ClC=1C(=NC=C(C1)C(F)(F)F)N1[C@@H](CCC1=O)C(=O)O | C11H8ClF3N2O3
